US09216981B2
6-chloro-9H-purine (500 mg, 3.2 mmol), 4-methyl benzene sulfonic acid (12 mg, 0.07 mmol), and 3,4-dehydro-2H-pyran (0.9 mL, 9.7 mmol) were added into ethylacetate solvent and stirred. The reactant was stirred at 90° C. for approximately 1 hour until the solid is dissolved completely. After concentrating the solvent, the residuals were refined by means of column chromatography, so that 749 mg of the target compound, 6-chloro-9-(tetrahydro-2H-pyran-2-yl)-9H-purine (percentage yield: 97%), was obtained.

reactant | 6-chloro-9H-purine | 3.2 mmol, 500 mg | ClC1=C2N=CNC2=NC=N1 | C5H3ClN4
reactant | 4-methyl benzene sulfonic acid | 0.07 mmol, 12 mg | CC1=CC=C(C=C1)S(=O)(=O)O | C7H8O3S
reactant | ethylacetate | C(C)OC(C)=O | C4H8O2
product | 6-chloro-9-(tetrahydro-2H-pyran-2-yl)-9H-purine | yield: 97% | ClC1=C2N=CN(C2=NC=N1)C1OCCCC1 | C10H11ClN4O
